US05026712
5,6-Dihydro-8-[4-(lH-imidazol-l-yl)pheny]-3-methylimidazo-[1,5-a]pyridine
Combine 100 g (0.47 mol) of cyclopropyl-[4-(lH-imidazol-1-yl)phenyl]methanone with 300 g (3.7 mol) of 2methylimidazole and heat to 175° C. under argon for 14 hr. Crystallization from acetonitrile provides the title compound.

reactant | cyclopropyl-[4-(lH-imidazol-1-yl)phenyl]methanone | 0.47 mol, 100 g | C1(CC1)C(=O)C1=CC=C(C=C1)N1C=NC=C1 | C13H12N2O
reactant | 2methylimidazole | 3.7 mol, 300 g | CC=1NC=CN1 | C4H6N2
product | 5,6-Dihydro-8-[4-(lH-imidazol-l-yl)pheny]-3-methylimidazo-[1,5-a]pyridine | N1(C=NC=C1)C1=CC=C(C=C1)C=1C=2N(CCC1)C(=NC2)C | C17H16N4
